US07405220B2
6-Chloro-3-(5-fluoro-2-methoxy-phenyl)-1H-pyrazolo[3,4-d]pyrimidine
To a stirred solution of (2,4-dichloro-pyrimidin-5-yl)-(5-fluoro-2-methoxy-phenyl)-methanone (602 mg, 2 mmol) in THF (8 m), hydrazine (Aldrich, 98%, 64 mg, 2 mmol) was added and the mixture was stirred for 20 minutes followed by a second portion of hydrazine (0.1 mL). The reaction finished in 5 minutes. The solvent was removed and the solid was washed with water/acetonitrile (3:1) to give a yellow solid. 456 mg, 82%. MS (M+H)+, 278.

reactant | (2,4-dichloro-pyrimidin-5-yl)-(5-fluoro-2-methoxy-phenyl)-methanone | 2 mmol, 602 mg | ClC1=NC=C(C(=N1)Cl)C(=O)C1=C(C=CC(=C1)F)OC | C12H7Cl2FN2O2
reactant | hydrazine | 2 mmol, 64 mg | NN | H4N2
reactant | hydrazine | 0.1 mL | NN | H4N2
solvent | THF | C1CCOC1 | C4H8O
product | 6-Chloro-3-(5-fluoro-2-methoxy-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | ClC1=NC=C2C(=N1)NN=C2C2=C(C=CC(=C2)F)OC | C12H8ClFN4O
